US05387747
12.4 g of 5-[(2'-cyanobiphenyl-4-yl)methyl]-4-hydroxy-2-methylmercapto-6-propylpyrimidine, prepared above, are dissolved in 370 ml of 2-methoxyethanol. 33 ml of hydrazine hydrate are introduced and the mixture is then refluxed for 3 h. It is concentrated under vacuum and the concentrate is taken up in acetonitrile and triturated. The solid obtained is filtered off and washed with ether and isopropyl ether to give 9.9 g of 5-[(2'-cyanobiphenyl-4-yl)methyl]-2-hydrazino-4-hydroxy-6-propylpyrimidine.

reactant | 5-[(2'-cyanobiphenyl-4-yl)methyl]-4-hydroxy-2-methylmercapto-6-propylpyrimidine | 12.4 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(=NC(=NC1CCC)SC)O | C22H21N3OS
reactant | hydrazine hydrate | 33 ml | O.NN
solvent | 2-methoxyethanol | 370 ml | COCCO | C3H8O2
product | 5-[(2'-cyanobiphenyl-4-yl)methyl]-2-hydrazino-4-hydroxy-6-propylpyrimidine | 9.9 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(=NC(=NC1CCC)NN)O | C21H21N5O
